US06194406B1
4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Alternately, combine 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (18.42 g, 63.9 mmol), 57% hydriodic acid (8.30 mL), ethanol (80 mL) and stir. After 2.5 hours, cool to give a solid. Collect the solid by filtration, rinse with diethyl ether, and dry in vacuo to give the title compound.

reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 63.9 mmol, 18.42 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | hydriodic acid | 8.30 mL | I | HI
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C16H24N4O.HI/c1-2-21-13-12-20-15-7-4-3-6-14(15)18-16(20)19-10-5-8-17-9-11-19;/h3-4,6-7,17H,2,5,8-13H2,1H3;1H
